US08536182B2
1,1-Dimethylethyl 4-[(4-cyanophenyl)oxy]-1-piperidinecarboxylate (D30)
The title compound was prepared from 4-hydroxybenzonitrile and 1,1-dimethylethyl 4-hydroxy-1-piperidinecarboxylate using a method similar to that described for D13.

reactant | 4-hydroxybenzonitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | 1,1-dimethylethyl 4-hydroxy-1-piperidinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
product | 1,1-Dimethylethyl 4-[(4-cyanophenyl)oxy]-1-piperidinecarboxylate | C(#N)C1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O3
